US04595677
370 mg of H-Pro-His-Pro-Phe-His-Sta-Ile-His-Lys-OMe×5 TFA are dissolved in 8 ml of H2O. The pH value is increased to 5.0 with 0.3N NH3, whereupon 40 μl of a 1% aqueous solution of trypsin are added and the pH value is maintained constant by means of a pH stat with the addition of 0.3N NH3. The absorption of base is complete after approximately 40 minutes. 1 ml of glacial acetic acid is added, the whole is heated for 2 minutes in a boiling water bath, concentrated to approximately 3 ml and lyophilised. The residue is dissolved in 3 ml of 0.05N AcOH, converted into the acetate by slowly being filtered through a column (φ=1 cm, length=10 cm) of weakly basic ion exchanger (Merck No. II) in acetate form, and the eluate is again lyophilised, yielding H-Pro-His-Pro-Phe-His-Sta-Ile-His-Lys-OH×AcOH in the form of amorphous white powder; Rf (D)=0.12; Rf (K)=0.14.

reactant | H-Pro-His-Pro-Phe-His-Sta-Ile-His-Lys-OMe | 370 mg | N1[C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CCCCN)C(=O)OC)CCC2)CCC1 | C58H86N16O11
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NH3 | 0.3N | N | H3N
reactant | NH3 | 0.3N | N | H3N
solvent | H2O | 8 ml | O | H2O
product | H-Pro-His-Pro-Phe-His-Sta-Ile-His-Lys-OH | N1[C@H](C(=O)N[C@@H](CC2=CNC=N2)C(=O)N2[C@H](C(=O)N[C@@H](CC3=CC=CC=C3)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC3=CNC=N3)C(=O)N[C@@H](CCCCN)C(=O)O)CCC2)CCC1 | C57H84N16O11
